US07968573B2
To a mixture of 0.72 g of 2-acetylamino-3-methylbenzoic acid and 8 ml of concentrated sulfuric acid was added dropwise 1.6 g of fuming nitric acid at room temperature. The resulting mixture was stirred at room temperature for 2 hours. The reaction mixture was poured into ice water. A deposited precipitate was collected by filtration to obtain 0.45 g of 2-acetylamino-3-methyl-5-nitrobenzoic acid of the formula:

reactant | 2-acetylamino-3-methylbenzoic acid | 0.72 g | C(C)(=O)NC1=C(C(=O)O)C=CC=C1C | C10H11NO3
reactant | sulfuric acid | 8 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 1.6 g | [N+](=O)(O)[O-] | HNO3
product | 2-acetylamino-3-methyl-5-nitrobenzoic acid | 0.45 g | C(C)(=O)NC1=C(C(=O)O)C=C(C=C1C)[N+](=O)[O-] | C10H10N2O5
